US08871934B2
Optically Active Form of 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propionic acid ethyl ester
To a suspension of 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-propionic acid ethyl ester (29.2 g), (+)-4-chloro-2-fluoro-9-trifluoromethyl-9H-fluoren-9-ol (20.4 g), and sodium hydrogen carbonate (11.1 g) in toluene/water (200 ml/66 ml) were added palladium acetate (743 mg) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (2.72 g) at room temperature, and the mixture was stirred at 115° C. for 8 hr. To the reaction mixture were added activated carbon (10 g) and Celite (10 g) at room temperature and the mixture was stirred for 1 hr. The mixture was filtered through celite, and the solid was washed with toluene (100 ml). The filtrate was partitioned, and the aqueous layer was extracted with toluene (60 ml). The combined organic layer was washed 3 times with water (100 ml), and once with saturated brine (100 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. To a solution of the obtained residue in toluene/ethyl acetate (3/1, 130 ml) was added silica gel (40 g), and the mixture was stirred at room temperature for 1 hr. The mixture was filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=5/1 to 2/1) to give the title compound (27.9 g).

reactant | 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-propionic acid ethyl ester | 29.2 g | C(C)OC(C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C14H23BN2O4
reactant | (+)-4-chloro-2-fluoro-9-trifluoromethyl-9H-fluoren-9-ol | 20.4 g | ClC1=CC(=CC=2C(C3=CC=CC=C3C12)(O)C(F)(F)F)F | C14H7ClF4O
reactant | sodium hydrogen carbonate | 11.1 g | C(O)([O-])=O.[Na+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 2.72 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene water | 200 ml | C1(=CC=CC=C1)C.O
catalyst | palladium acetate | 743 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propionic acid ethyl ester | 27.9 g | C(C)OC(C(C)N1N=CC(=C1)C1=CC(=CC=2C(C3=CC=CC=C3C12)(C(F)(F)F)O)F)=O | C22H18F4N2O3
